US07723332B2
According to general procedure A, 4-Bromo-2-trifluoromethoxy-benzenesulfonyl chloride (0.35 g, 1.03 mmol) and ammonia (10 mL, ca. 7N in methanol) were stirred together for 16 hours. 4-bromo-2-(trifluoromethoxy)benzenesulfonamide (0.33 g, 100%) was provided after purification. MS (ESI) m/z 320. HPLC purity 100.0% at 210-370 nm, 8.0 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min., 85/15-5/95 (ammonium formate buffer pH=3.5/ACN+MeOH) for 10 min., hold 4 min.

reactant | 4-Bromo-2-trifluoromethoxy-benzenesulfonyl chloride | 1.03 mmol, 0.35 g | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)OC(F)(F)F | C7H3BrClF3O3S
reactant | ammonia | ca. 7N, 10 mL | N | H3N
product | 4-bromo-2-(trifluoromethoxy)benzenesulfonamide | 0.33 g, 100% | BrC1=CC(=C(C=C1)S(=O)(=O)N)OC(F)(F)F | C7H5BrF3NO3S
